US09085534B2
Preparation 66A: 1-(7-chloro-3,4-dihydro-2H-chromen-4-yl)methanamine, hydrochloride
Hydrogenation of 1-(7-chloro-2H-chromen-4-yl)methanamine hydrochloride (500 mg, 2.6 mmol) was carried out in the presence of Raney Nickel (300 mg) in 2:1 MeOH/HOAc under 50 psi of H2 for 16 h at 30° C. The reaction was filtered through Celite and concentrated in vacuo. Precipitation from EtOAc and filtration gave 280 mg (56%) of the title compound as a white solid. [M+H] calc'd for C10H12ClNO, 198; found 198.

reactant | 1-(7-chloro-2H-chromen-4-yl)methanamine hydrochloride | 2.6 mmol, 500 mg | Cl.ClC1=CC=C2C(=CCOC2=C1)CN
catalyst | Raney Nickel | 300 mg | [Ni] | Ni
solvent | MeOH HOAc | CO.CC(=O)O
product | 1-(7-chloro-3,4-dihydro-2H-chromen-4-yl)methanamine, hydrochloride | 280 mg, 56% | Cl.ClC1=CC=C2C(CCOC2=C1)CN | InChI=1S/C10H12ClNO.ClH/c11-8-1-2-9-7(6-12)3-4-13-10(9)5-8;/h1-2,5,7H,3-4,6,12H2;1H
